US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 2,4-difluoro-3-(pyridin-4-yl)benzeneboronic acid as described in Example 65 to give 3-[2,4-difluoro-3-(pyridin-4-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a white solid. Bis-hydrochloride (from ethanol/ethyl acetate): δH (400 MHz, DMSO) 7.60-7.65 (2H, m), 7.96-8.01 (1H, m), 8.16 (2H, d, J 6), 8.34 (1H, s), 9.00-9.02 (2H, m), 9.34 (1H, dd, J 7 and 3); m/z (ES+) 377 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2,4-difluoro-3-(pyridin-4-yl)benzeneboronic acid | FC1=C(C=CC(=C1C1=CC=NC=C1)F)B(O)O | C11H8BF2NO2
product | 3-[2,4-difluoro-3-(pyridin-4-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=CC(=C1C1=CC=NC=C1)F)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C18H9F5N4
